US07592358B2
48.1b. 2-(4-chlorophenyl)-5-iodopyrazine
In a flask protected from light, 4.90 mL (40.0 mmol) of tert-butylnitrite and 7.61 g (30.0 mmol) of iodine were added to a solution of 4.80 g (23.5 mmol) of 5-(4-chlorophenyl)pyrazin-2-ylamine in 100 mL of carbon tetrachloride and 50 mL of DCM. The mixture was stirred overnight at RT and then combined with 100 mL of water. The organic phase was washed twice with 50 mL of 10% aqueous sodium thiosulfate solution and 50 mL of water, dried over magnesium sulfate, filtered through activated charcoal, and evaporated down in vacuo. The residue was purified by column chromatography (silica gel, PE→PE/EtOAc 8:2). Yield: 3.40 g (46% of theoretical); C10H6ClIN2 (M=316.525); calc.: molpeak (M+H)+:317/319 (Cl); found: molpeak (M+H)+:317/319 (Cl); Rf value: 0.55 (silica gel, PE/EtOAc 9:1).

reactant | tert-butylnitrite | 40.0 mmol, 4.90 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | iodine | 30.0 mmol, 7.61 g | II | I2
reactant | 5-(4-chlorophenyl)pyrazin-2-ylamine | 23.5 mmol, 4.80 g | ClC1=CC=C(C=C1)C=1N=CC(=NC1)N | C10H8ClN3
reactant | water | 100 mL | O | H2O
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chlorophenyl)-5-iodopyrazine | ClC1=CC=C(C=C1)C1=NC=C(N=C1)I | C10H6ClIN2
